US05332840
L-Serine (20.00 g, 190.3 mmol) was dissolved in water, and aqueous sodium hydroxide was added to adjust the pH of the solution to about 8.5 while maintaining the temperature at about 25° C. Benzyl chloroformate (36.0 g, 211.0 mmol) was added while maintaining the pH between 8.3 and 8.5 by the addition of aqueous sodium hydroxide and the temperature was maintained at about 30° C. The mixture was stirred for about 2 hours. The reaction mixture was extracted with methylene chloride. The phases were separated, and the pH of the aqueous phase was adjusted to about 7 with concentrated hydrochloric acid. The aqueous phase was heated to about 40° C. under low vacuum to remove any residual methylene chloride. Water was added and the aqueous solution was heated to about 60° C. The pH was adjusted to about 2 with concentrated hydrochloric acid while maintaining the temperature at about 60° C. The solution was cooled to about 50° C. while stirring and seed crystals were added. With stirring, cooling was continued to about 0° C. to complete the crystallization. The product was collected and the cake was washed with cold (about 5° C.) water. The product was dried under vacuum at about 40° C. to afford carbobenzyloxy-L-serine.

reactant | L-Serine | 190.3 mmol, 20.00 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Benzyl chloroformate | 211.0 mmol, 36.0 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | O | H2O
product | carbobenzyloxy-L-serine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
